US07732435B2
7-Azido-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one
To a solution of 3-(4-chlorophenyl)-7-fluoro-2-isopropyl-chromen-4-one (4.0 g, 12.7 mmol) in dry dimethylformamide (120 ml) is added sodium azide at room temperature. The reaction mixture is heated at 90° C. for 16 h, cooled to room temperature and partitioned between ethyl acetate and water. The organic phase is washed with water and brine, dried (MgSO4) and concentrated in vacuo. Purification by flash chromatography on silica gel using iso-hexane:ethyl acetate (10:1) as the eluent, followed by recrystallisation from iso-hexane, gives the title compound.

reactant | 3-(4-chlorophenyl)-7-fluoro-2-isopropyl-chromen-4-one | 12.7 mmol, 4.0 g | ClC1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)F)C(C)C | C18H14ClFO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 7-Azido-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | N(=[N+]=[N-])C1=CC=C2C(C(=C(OC2=C1)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H14ClN3O2
